US07776910B2
Tris(dibenzylideneacetone)dipalladium(0) (336 mg, 0.3674 mmol), 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene (425 mg, 0.7347 mmol), 4-methoxy-benzenethiol (361 μL, 2.939 mmol) and DIPEA (0.538 mL, 5.878 mmol) were added to a solution of 3-(4-bromo-2-methyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 2.939 mmol) in 1,4-dioxane (10 mL). The reaction mixture was heated at reflux for 18 hours, then cooled to room temperature, and a solution of 10% KHSO4/Na2SO4 was added. The mixture was extracted with EtOAc, and the combined organic extracts were washed with water and brine, dried over Na2SO4, filtered and evaporated under reduced pressure. The resulting crude material was purified via flash chromatography (hexane/EtOAc, 95/5) to give 0.91 g (77% yield) of 3-[4-(4-methoxy-phenylsulfanyl)-2-methyl-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a white foam.

reactant | 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene | 0.7347 mmol, 425 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | 4-methoxy-benzenethiol | 2.939 mmol, 361 μL | COC1=CC=C(C=C1)S | C7H8OS
reactant | DIPEA | 5.878 mmol, 0.538 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(4-bromo-2-methyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.939 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)Br)C | C16H22BrNO2
reactant | KHSO4 Na2SO4 | OS(=O)(=O)[O-].[K+].[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.3674 mmol, 336 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[4-(4-methoxy-phenylsulfanyl)-2-methyl-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.91 g, 77% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)SC1=CC=C(C=C1)OC)C | C23H29NO3S
